US09381191B2
In an argon atmosphere, 27 g (59.8 mmol) of ethyl 2-((6-chloro-3-iodoimidazo[1,2-a]-pyridin-2-yl)methylthio)acetate, 9.51 ml (65.8 mmol) of 1-ethynyl-3-(trifluoromethyl)benzene, 1.139 g (5.98 mmol) of copper iodide and 125 ml (897 mmol) of triethylamine are loaded in 100 ml of DMF. Argon was bubbled in the solution for 10 min, and then 2.74 g (2.99 mmol) of Pd2(dba)3 were added. The mixture was stirred for 1 h at r.t. The catalyst was filtered on folded paper, the solution was poured onto 300 ml of water, extracted with 2×200 ml of ethyl acetate, the collected organic phases were washed with 3×150 ml of water and once with 150 ml of brine, dried on Na2SO4 which was then removed by filtration and the obtained filtrate was concentrated in vacuo. The residue was purified on a silica cake, and eluted with a heptane/ethyl acetate mixture. 23.21 g (yield=85%) of ethyl 2-((6-chloro-3-((3-(trifluoromethyl)phenyl)ethynyl)-imidazo[1,2-a]pyridin-2-yl)methylthio)acetate were obtained as a yellow solid. LC-MS: m/z=453 (MH+) UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.91 (dd, J=1.9, 0.6 Hz, 1H), 8.14 (s, 1H), 8.01 (d, J=7.6 Hz, 1H), 7.71 (ddd, J=14.3, 9.4, 4.3 Hz, 3H), 7.47 (dd, J=9.5, 2.0 Hz, 1H), 4.18-3.93 (m, 4H), 3.46 (s, 2H), 1.11 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-((6-chloro-3-iodoimidazo[1,2-a]-pyridin-2-yl)methylthio)acetate | 59.8 mmol, 27 g | ClC=1C=CC=2N(C1)C(=C(N2)CSCC(=O)OCC)I | C12H12ClIN2O2S
reactant | 1-ethynyl-3-(trifluoromethyl)benzene | 65.8 mmol, 9.51 ml | C(#C)C1=CC(=CC=C1)C(F)(F)F | C9H5F3
reactant | triethylamine | 897 mmol, 125 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 5.98 mmol, 1.139 g | [Cu](I)I
catalyst | Pd2(dba)3 | 2.99 mmol, 2.74 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 2-((6-chloro-3-((3-(trifluoromethyl)phenyl)ethynyl)-imidazo[1,2-a]pyridin-2-yl)methylthio)acetate | 23.21 g, yield=85% | ClC=1C=CC=2N(C1)C(=C(N2)CSCC(=O)OCC)C#CC2=CC(=CC=C2)C(F)(F)F | C21H16ClF3N2O2S
